US08633173B2
N-Methyl-N-(3-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide was prepared from N-[3-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide (75.0 mg, 0.236 mmol) and 1-(4-bromo-phenyl)-4-methyl-piperazine (67.0 mg, 0.262 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.033 g, 28%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.41 (d, J=6.6, 1H), 8.13 (s, 3H), 7.93 (d, J=7.9 Hz, 1H), 7.59 (d, J=7.4 Hz, 1H), 7.56-7.45 (m, 3H), 7.44 (dd, J=8.2, 1.2 Hz, 1H), 6.98-6.92 (m, 3H), 6.64 (s, 1H), 3.42 (s, 3H), 3.19-3.14 (m, 4H), 2.89 (s, 3H), 2.63-2.57 (m, 4H), 2.36 (s, 3H). MS=492 (MH)+.

reactant | N-[3-(2-amino-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-phenyl]-N-methyl-methanesulfonamide | 0.236 mmol, 75.0 mg | NC1=NN2C(C(=CC=C2)C=2C=C(C=CC2)N(S(=O)(=O)C)C)=N1 | C14H15N5O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | 0.262 mmol, 67.0 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(3-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=CC(=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H29N7O2S
